US09403832B2
1,8-Diazabicycloundec-7-ene (DBU) [6674-22-2] (0.4 mL, 2.5 mmol) was added to an ambient temperature, stirred, turbid solution of 3-thiophen-2-yl-4H-pyrazolo[1,5-a]pyrimidin-5-one (354.3 mg, 1.6 mmol), (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester [121492-06-6] (852.2 mg, 4.9 mmol), and (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (BOP) [56602-33-6] (937.7 mg, 2.1 mmol) in acetonitrile (16 mL). Upon addition of the DBU the turbidity clears and the solution was permitted to stir for 2 d then partitioned between brine and ethyl acetate. The extract was dried (MgSO4) and flash chromatographed (silica gel, eluted with 10% (v/v) methanol/ethyl acetate). Evaporation of product fractions yielded an oil which was crystallized from heptane to provide methyl-[2-(3-thiophen-2-yl-pyrazolo[1,5-a]pyrimidin-5-ylamino)-ethyl]-carbamic acid tert-butyl ester as 333.6 mg of yellow, fine crystalline powder, mp. 140-141° C. 1H NMR (400 MHz, DMSO-d6) δ ppm (rotomers present) 1.16-1.28 (m, 5 H) 1.37 (br. s., 3 H) 2.51 (s, 1 H) 2.85 (br. s., 3 H) 3.47 (br. s., 1 H) 3.55 (br. s., 3 H) 6.28 (d, J=6.82 Hz, 1 H) 7.04 (dd, J=5.05, 3.54 Hz, 1 H) 7.30 (dd, J=5.05, 1.01 Hz, 1 H) 7.41 (br. s., 1 H) 7.80 (br. s., 1 H) 8.19 (s, 1 H) 8.48 (d, J=7.07 Hz, 1H). 13C NMR (100 MHz, DMSO-d6) δ ppm 27.81, 27.96, 33.75, 38.41, 46.32, 78.13, 100.28, 100.76, 120.16, 121.75, 126.90, 135.01, 135.20, 140.78, 143.74, 154.91, 155.81. LRMS (ESI) m/z 374.1 [(M+H)]+, calc'd for C18H23N5O2S: 373.48.

reactant | 1,8-Diazabicycloundec-7-ene | 2.5 mmol, 0.4 mL | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
reactant | 3-thiophen-2-yl-4H-pyrazolo[1,5-a]pyrimidin-5-one | 1.6 mmol, 354.3 mg | S1C(=CC=C1)C=1C=NN2C1NC(C=C2)=O | C10H7N3OS
reactant | (2-amino-ethyl)-methyl-carbamic acid tert-butyl ester | 4.9 mmol, 852.2 mg | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 2.1 mmol, 937.7 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | methyl-[2-(3-thiophen-2-yl-pyrazolo[1,5-a]pyrimidin-5-ylamino)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCNC1=NC=2N(C=C1)N=CC2C=2SC=CC2)C)=O | C18H23N5O2S
